US09403805B2
(2S,4S)-1-Cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-pyrrolidine-2-carboxylic acid methyl ester was prepared from (2S,4S)-4-amino-1-cyclohexylmethyl-2-methyl-pyrrolidine-2-carboxylic acid methyl ester and 1-hydroxy-naphthalene-2-carboxylic acid in an analogous manner to example 1. MS calcd. for C25H33N2O4 [(M+H)+] 425, obsd. 425.

reactant | (2S,4S)-4-amino-1-cyclohexylmethyl-2-methyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@]1(N(C[C@H](C1)N)CC1CCCCC1)C | C14H26N2O2
reactant | 1-hydroxy-naphthalene-2-carboxylic acid | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
product | (2S,4S)-1-Cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@]1(N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC1CCCCC1)C | C25H32N2O4
